US04456464
To dimethyl 2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethylphosphonate (0.5 g) in benzene (10 ml) is added thionyl chloride (8 ml) at RT. The mixture is allowed to return to RT and is stirred for 6 hours. The solvent and any excess thionyl chloride are then distilled off, yielding methyl 2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethylphosphonochloridate.

reactant | dimethyl 2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethylphosphonate | 0.5 g | [N+](=O)([O-])C1=C(OCP(OC)(OC)=O)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C16H14ClF3NO7P
reactant | thionyl chloride | 8 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | methyl 2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethylphosphonochloridate | [N+](=O)([O-])C1=C(OCP(OC)(=O)Cl)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C15H11Cl2F3NO6P
